US06294580B1
2-(4-trifluoromethoxy-phenyl)-ethanol
To a stirred solution of 1.0 g (4.54 mmol) of 4-(trifluoromethoxy)-phenylacetic acid in 15 mL of anhydrous THF at 0° C. was added dropwise 9 mL (9.08 mmol) of 1 M BH3THF and the reaction allowed to warm to RT over 16 h. The mixture was cooled back down to 0° C. and the reaction quenched with 15 mL of water/acetic acid/THF (1:1:3). After warming to RT, the solvent was removed in vacuo, the residue diluted with water, and the solution extracted with EtOAc. The layers were separated, the organics washed with NaHCO3, the layers separated, the organics dried (MgSO4), and the solvent removed in vacuo. The residue was purified by silica gel chromatography using EtOAc/hexane (1:1) as eluent to give 540 mg (57% yield) of the title compound: TLC (EtOAc/hexane (1:1)): Rf=0.43.

reactant | 4-(trifluoromethoxy)-phenylacetic acid | 4.54 mmol, 1.0 g | FC(OC1=CC=C(C=C1)CC(=O)O)(F)F | C9H7F3O3
reactant | BH3THF | 9.08 mmol, 1 M, 9 mL | B.C1CCOC1
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 2-(4-trifluoromethoxy-phenyl)-ethanol | 540 mg, 57% yield | FC(OC1=CC=C(C=C1)CCO)(F)F | C9H9F3O2
